US07319098B2
Synthesis of 1-(3-{[2-(4-chloro-benzyl)-1,3-dioxo-2,3-dihydro-1H-isoindol-5-carbonyl]-amino}-propyl)-2-methyl-piperidinium chloride (Compound 88)
2-(4-chloro-benzyl)-1,3-dioxo-2,3-dihydro-1H-isoindol-5-carboxylic acid (100 mg, 0.316 mmol) and 3-(2-methylpiperidin-1-yl)propan-1-amine (138 μL, 0.792 mmol) were reacted with each other. Target compound in the amount of 136 mg (87%) was obtained by following the procedure described in Example 1.

reactant | 2-(4-chloro-benzyl)-1,3-dioxo-2,3-dihydro-1H-isoindol-5-carboxylic acid | 0.316 mmol, 100 mg | ClC1=CC=C(CN2C(C3=CC=C(C=C3C2=O)C(=O)O)=O)C=C1 | C16H10ClNO4
reactant | 3-(2-methylpiperidin-1-yl)propan-1-amine | 0.792 mmol, 138 μL | CC1N(CCCC1)CCCN | C9H20N2
product | 1-(3-{[2-(4-chloro-benzyl)-1,3-dioxo-2,3-dihydro-1H-isoindol-5-carbonyl]-amino}-propyl)-2-methyl-piperidinium chloride | [Cl-].ClC1=CC=C(CN2C(C3=CC=C(C=C3C2=O)C(=O)NCCC[NH+]2C(CCCC2)C)=O)C=C1 | InChI=1S/C25H28ClN3O3.ClH/c1-17-5-2-3-13-28(17)14-4-12-27-23(30)19-8-11-21-22(15-19)25(32)29(24(21)31)16-18-6-9-20(26)10-7-18;/h6-11,15,17H,2-5,12-14,16H2,1H3,(H,27,30);1H
